US06573274B1
To a mixture of methyl 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate dihydrochloride (418 mg), pyridine (396 mg) and tetrahydrofuran (4.2 ml) was added dropwise ethyl chlorocarbonate (0.115 ml) under ice-cooling and the mixture was stirred at room temperature for 6 hr. The reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with saturated brine, dried over magnesium sulfate, and concentrated to dryness under reduced pressure. The residue was pulverized in diethyl ether to give methyl 3-(2-chloro-4-(N-ethoxycarbonyl-N-methylamino)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate (340 mg) as a white powder.

reactant | methyl 3-(2-chloro-4-(methylamino)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate dihydrochloride | 418 mg | Cl.Cl.ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)NC
reactant | pyridine | 396 mg | N1=CC=CC=C1 | C5H5N
reactant | ethyl chlorocarbonate | 0.115 ml | C(OCC)(=O)Cl | C3H5ClO2
solvent | tetrahydrofuran | 4.2 ml | O1CCCC1 | C4H8O
product | methyl 3-(2-chloro-4-(N-ethoxycarbonyl-N-methylamino)benzyl)-2-methyl-3H-imidazo[4,5-b]pyridine-5-carboxylate | 340 mg | ClC1=C(CN2C(=NC=3C2=NC(=CC3)C(=O)OC)C)C=CC(=C1)N(C)C(=O)OCC | C20H21ClN4O4
